US04275160
In a 500 ml round bottom flask fitted with a stirrer, dropping funnel and calcium chloride drying tube was placed recrystallized dibenz[b,f]azepine (33.5 g, 0.173 moles), 200 ml of anhydrous benzene and pyridine (13.6 g, 0.173 moles). Acetyl chloride (~12.3 ml) was then added dropwise to the mixture. A white precipitate formed with disappearance of orange color. After 3 to 4 hours of stirring, the reaction mixture was extracted with three 100 ml portions of 10% hydrochloric acid or until the extract remained acidic. The organic phase was washed with 5% Na2CO3 in water, dried over anhydrous magnesium sulfate, filtered and concentrated. Crystallization from a hexane-chloroform mixture afforded 49 g of 5-acetyl-5H-dibenz[b,f]azepine, m.p. ~121°.

reactant | dibenz[b,f]azepine | 0.173 moles, 33.5 g | C1=CC=CC=2NC3=C(C=CC21)C=CC=C3 | C14H11N
reactant | pyridine | 0.173 moles, 13.6 g | N1=CC=CC=C1 | C5H5N
reactant | Acetyl chloride | ~12.3 ml | C(C)(=O)Cl | C2H3ClO
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 5-acetyl-5H-dibenz[b,f]azepine | 49 g | C(C)(=O)N1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C16H13NO
